US07608629B2
Preparation 114. 3-Fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine
Combine 4-(3-Fluoro-5-nitro-phenylsulfanyl)-1-methyl-piperidine (preparation 75, 0.31 g, 1.15 mmol), iron dust (0.21 g, 3.79 mmol), methanol (10 mL) and aqueous 1M hydrochloric acid (0.35 mL, 0.35 mmol), stir and heat at reflux. After 20 h, cool to ambient temperature and concentrate. Partition residue between ethyl acetate (50 mL) and 1M sodium hydroxide (20 mL). Separate the organic layer, dry over sodium sulfate, filter and concentrate. Purify residue by silica gel flash chromatography eluting with 10% (2M NH3/methanol)/methylene dichloride to obtain 0.11 g (40%) of the title compound: mass spectrum (electrospray): m/z=241.1 (M+1).

reactant | 4-(3-Fluoro-5-nitro-phenylsulfanyl)-1-methyl-piperidine | 1.15 mmol, 0.31 g | FC=1C=C(C=C(C1)[N+](=O)[O-])SC1CCN(CC1)C | C12H15FN2O2S
reactant | hydrochloric acid | 0.35 mmol, 1M, 0.35 mL | Cl | ClH
catalyst | iron | 3.79 mmol, 0.21 g | [Fe] | Fe
solvent | methanol | 10 mL | CO | CH4O
product | 3-Fluoro-5-(1-methyl-piperidin-4-ylsulfanyl)-phenylamine | 0.11 g, 40% | FC=1C=C(C=C(C1)SC1CCN(CC1)C)N | C12H17FN2S
